* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1371HV.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 4.7µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS340
R1 OUT N003 53.6K
R2 N003 0 6.19K
R3 N004 N005 2K
C1 OUT 0 22µ Rser=.05
C2 N005 0 .0047µ
C3 N004 0 .047µ
V1 IN 0 5
X§U1 N005 N003 N006 0 N001 N002 IN LT1371
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1371.sub
.backanno
.end
